US07737166B2
2-(Cyclopent-1-en-1-yl)-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (#111)
2-(Cyclopent-1-en-1-yl)-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-214) (145 mg, 0.46 mmol) was dissolved in dimethyl sulfoxide (5 ml), then triethylamine (130 μl, 0.91 mmol) and (3S)-3-(dimethylamino)pyrrolidine (121 μl, 0.96 mmol) were added, followed by stirring at 95° C. for 4 hours. After cooled, this was concentrated under reduced pressure, diluted with chloroform, and washed with saturated brine. The organic layer was dried over anhydrous magnesium sulfate, then the solvent was evaporated away under reduced pressure. The resulting residue was subjected to preparative silica gel column chromatography. The eluate with chloroform/methanol (5:1, y/v) gave the entitled compound (34 mg, 18%) as a pale yellow amorphous substance.

reactant | 2-(Cyclopent-1-en-1-yl)-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 0.46 mmol, 145 mg | C1(=CCCC1)C=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C20H15FN2O
reactant | triethylamine | 0.91 mmol, 130 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 0.96 mmol, 121 μl | CN([C@@H]1CNCC1)C | C6H14N2
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | 2-(Cyclopent-1-en-1-yl)-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 34 mg, 18% | C1(=CCCC1)C=1OC=2C(N1)=C(C(=C(C2N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C)C#N | C26H28N4O
